US08044069B2
ethyl 4-cyano-2-phenylbutanoate
To a solution of ethyl 2-phenylacetate (5.00 g, 30.5 mmol) in benzene (50 mL) was added Triton-B (40% solution in methanol) (0.240 mL, 0.609 mmol) at 0° C. After stirring for 10 minutes, acrylonitrile (2.005 mL, 30.5 mmol) was added, and the reaction was allowed to warm to room temperature. The reaction was stirred for 3 hours, concentrated, loaded directly onto silica gel (GraceResolv High Resolution Flash Cartridge, 80 g) and eluted using a gradient of 5% to 40% ethyl acetate/hexanes over 40 minutes (flow rate=40 mL/minute). Concentration of product containing fractions provided the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 7.44-7.19 (m, 5H), 4.26-4.00 (m, 2H), 3.81-3.59 (m, 1H), 2.50-2.01 (m, 4H), 1.20 (t, J=7.1, 3H).

reactant | ethyl 2-phenylacetate | 30.5 mmol, 5.00 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | acrylonitrile | 30.5 mmol, 2.005 mL | C(C=C)#N | C3H3N
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | ethyl 4-cyano-2-phenylbutanoate | C(#N)CCC(C(=O)OCC)C1=CC=CC=C1 | C13H15NO2
